US08236845B2
6-(Dimethylamino)-5,6,7,8-tetrahydronaphthalen-1-ol
N-(5-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-N,N-dimethylamine (8.86 g, 43.156 mmol) was dissolved in CH2Cl2 (200 mL), cooled to 0° C. and BBr3 (1.0 M in CH2Cl2, 51.8 mL, 51.788 mmol) was added over a period of 20 min. The reaction mixture was allowed to reach r.t. while stirring overnight (ca. 14 h). The mixture was cooled again to 0° C., NH3 aq. (25%, 50 mL) was added slowly and the mixture was stirred at 0° C. for 15 min. The salts were filtered off, layers were separated and the aqueous phase was extracted with CH2Cl2 (4×40 mL). All organic phases were combined, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue (6.99 g) was purified by flash chromatography on silica gel (30:70:2-100:0:2 AcOEt/Hexane/Et3N and 30:70:2 AcOEt/Hexane/Et3N-90:10:2 AcOEt/MeOH/Et3N) affording 2.80 g of the title compound (Rf=0.3 (AcOEt/Hexane/Et3N 10:10:2), off-white solid, 34% yield).

reactant | N-(5-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-N,N-dimethylamine | 43.156 mmol, 8.86 g | COC1=C2CCC(CC2=CC=C1)N(C)C | C13H19NO
reactant | BBr3 | 51.788 mmol, 1.0 M, 51.8 mL | B(Br)(Br)Br | BBr3
reactant | NH3 | 50 mL | N | H3N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-(Dimethylamino)-5,6,7,8-tetrahydronaphthalen-1-ol | 2.80 g, 34% yield | CN(C1CC=2C=CC=C(C2CC1)O)C | C12H17NO
